US06787543B2
Sodium methoxide in methanol (5M, 27 μl ) was added into a solution of tert-butyl (4R,7S,8aS)-7-acetoxy-4-benzhydrylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (628 mg) in methanol (10 ml) at room temperature. After being stirred for 1 hour at the same temperature, the reaction mixture was poured into water (10 ml). The whole was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography with a mixture of hexane and ethyl acetate (1:1) as an eluent to give tert-butyl (4R,7S,8aS)-4-benzhydryl-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (521 mg).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | tert-butyl (4R,7S,8aS)-7-acetoxy-4-benzhydrylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 628 mg | C(C)(=O)O[C@H]1C[C@@H]2N([C@@H](CN(C2)C(=O)OC(C)(C)C)C(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C27H34N2O4
reactant | water | 10 ml | O | H2O
solvent | methanol | 5M, 27 μl | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl (4R,7S,8aS)-4-benzhydryl-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 521 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1C[C@H](C2)O)C(=O)OC(C)(C)C | C25H32N2O3
